US04025537
A mixture of 4.80 g (0.02 mole) ethyl 2-acetyl-2-decenoate and 3.56 g (0.02 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 12 hours. After cooling, the succinimide was removed by filtration and the solution concentrated by rotary evaporation. Distillation of the crude product gave 4.20 g (88%) of ethyl 5-hexyl-2-methyl-3-furoate, bp 107°-109° C. (0.4 mm).

reactant | ethyl 2-acetyl-2-decenoate | 0.02 mole, 4.80 g | C(C)(=O)C(C(=O)OCC)=CCCCCCCC | C14H24O3
reactant | N-bromosuccinimide | 0.02 mole, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-hexyl-2-methyl-3-furoate | 4.20 g, 88% | C(CCCCC)C1=CC(=C(O1)C)C(=O)OCC | C14H22O3
